US05837673
3-Aminopropanol (6.0 g) is dissolved in methylene chloride (50 ml), and thereto is added dropwise with stirring di-t-butyl dicarbonate (18.3 g) under ice-cooling. The mixture is stirred at room temperature for 2 hours, and concentrated, and the residue is purified by silica gel column chromatography to give 3-t-butoxycarbonylaminopropanol (13.98 g) as a colorless oil.

reactant | 3-Aminopropanol | 6.0 g | NCCCO | C3H9NO
reactant | di-t-butyl dicarbonate | 18.3 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
product | 3-t-butoxycarbonylaminopropanol | 13.98 g, Yield: 99.9% | C(C)(C)(C)OC(=O)NCCCO | C8H17NO3
